US06500985B2
Di-tert-butyl dicarbonate (4.64 g) and triethylamine (5.28 ml) were dissolved in toluene (81.9 ml), and an aqueous solution (45.60 g) of (3S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride (3.83 g) was added thereto dropwise over 10 minutes. The solution was stirred at room temperature for 1 hour, then heated at 40° C., and further reacted for 1 hour. After the reaction solution was cooled to room temperature, the aqueous layer was separated. The resulting toluene layer was washed with 2 N hydrochloric acid and with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. Then, magnesium sulfate was removed. The resulting toluene layer was analyzed by HPLC, and it was identified that (3S)-3-tert-butoxycarbonylamino-1-chloro-4-phenyl-2-butanone (3.94 g) was obtained in a yield of 81%. The solvent was distilled off under reduced pressure, and n-hexane and 2-propanol were added to the residue. The solution was heated to 50° C. to form a uniform solution. Thereafter, this solution was cooled to room temperature, stirred for 1 hour, further cooled to 5° C., and stirred for 1 hour. Crystals precipitated were collected by filtration, and dried to obtain (3S)-3-tert-butoxycarbonylamino-1-chloro-4-phenyl-2-butanone (2.98 g) in a crystallization rate of 75%.

reactant | Di-tert-butyl dicarbonate | 4.64 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 5.28 ml | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride | 45.60 g | Cl.N[C@H](C(CCl)=O)CC1=CC=CC=C1
solvent | toluene | 81.9 ml | C1(=CC=CC=C1)C | C7H8
product | (3S)-3-tert-butoxycarbonylamino-1-chloro-4-phenyl-2-butanone | 2.98 g, yield of 81% | C(C)(C)(C)OC(=O)N[C@H](C(CCl)=O)CC1=CC=CC=C1 | C15H20ClNO3
